US05891889
Step G: 4-(3-Methylphenyl)-4-hydroxypiperidine hydrochloride.
To a solution of N-t-butoxycarbonyl-4-(3-methylphenyl)-4-hydroxy piperidine (0.546 mg, 1.87 mmol) in EtOAc (30 ml) at 0° C. was bubbled gasseous HCl until saturated. After 10 min the solvent was evaporated in vacuo to afford the title compound of sufficient purity to be used in the next step.

reactant | N-t-butoxycarbonyl-4-(3-methylphenyl)-4-hydroxy piperidine | 1.87 mmol, 0.546 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)C | C17H25NO3
reactant | HCl | Cl | ClH
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 4-(3-Methylphenyl)-4-hydroxypiperidine hydrochloride | Cl.CC=1C=C(C=CC1)C1(CCNCC1)O | InChI=1S/C12H17NO.ClH/c1-10-3-2-4-11(9-10)12(14)5-7-13-8-6-12;/h2-4,9,13-14H,5-8H2,1H3;1H
